US04022833
In a manner similar to that of Example 1, condensation of 1-decene oxide (50 g.) and hexamethylenediamine (18.6 g.) and recrystallization of the resulting product from methanol gave N,N'-(1,6-hexylene)-bis[2-hydroxydecylamine] (I: R= CH3 (CH2)7, R' = H, X= (CH2)6, Z= H) (25.4 g., m.p. 118.0°-126.8° C.).

reactant | 1-decene oxide | 50 g | C1C(CCCCCCCC)O1 | C10H20O
reactant | hexamethylenediamine | 18.6 g | NCCCCCCN | C6H16N2
solvent | methanol | CO | CH4O
product | N,N'-(1,6-hexylene)-bis[2-hydroxydecylamine] | C(CCCCCNCC(CCCCCCCC)O)NCC(CCCCCCCC)O | C26H56N2O2
